US06403760B1
Preparation of Poly-FOX Mono-Urethane Acrylate
The comonomers and acrylated resins (e.g. Ebecryl 81, Ebecryl 4883, TRPGDA, TMPTA, and N-vinylpyrrolidone) were weighted into a reactor and mixed at 50° C. for 30 minutes. The reactor was cooled to room temperature (approximately 25° C.) while mixing. To the reactor contents were added the acrylated Poly-FOX prepolymer, photoinitiator, and the remaining constituents of the formulation and the system was stirred until complete mixing was achieved (approximately 30 minutes).

reactant | TRPGDA | CC(COC(C)COC(=O)C=C)OCC(C)OC(=O)C=C | C15H24O6
reactant | TMPTA | CCC(COC(=O)C=C)(COC(=O)C=C)COC(=O)C=C | C15H20O6
reactant | N-vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
product | Mono-Urethane Acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
